US07456164B2
Intermediate 108: 3-(chloromethyl)-1-isopropylazetidine hydrochloride
(1-isopropylazetidin-3-yl)methanol hydrochloride (2.6 g, 15.7 mmol) was dissolved in dichloromethane (50 ml) and cooled to 0° C. Thionyl chloride (1.4 ml, 19.2 mmol) was added dropwise over 5 min. The reaction mixture was then stirred whilst warming to ambient temperature. Stirred at ambient temperature for 48 hours. The reaction mixture was concentrated in vacuo and azeotroped with toluene (40 ml) to give the title compound as a beige hygroscopic powder (2.8 g, 99%). LRMS ESI+ m/z 148/150 [M+H]+ (CI isotopes).

reactant | (1-isopropylazetidin-3-yl)methanol hydrochloride | 15.7 mmol, 2.6 g | Cl.C(C)(C)N1CC(C1)CO
reactant | Thionyl chloride | 19.2 mmol, 1.4 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(chloromethyl)-1-isopropylazetidine hydrochloride | Cl.ClCC1CN(C1)C(C)C | InChI=1S/C7H14ClN.ClH/c1-6(2)9-4-7(3-8)5-9;/h6-7H,3-5H2,1-2H3;1H
